US06927228B2
(b) 5-Bromo-N-methyl-3-biphenylcarboxamide
In a manner similar to that of Example 1(e), by reacting 4.9 g (14 mmol) of 3-bromo-5-iodo-N-methyl-benzamide and 1.93 g (15.8 mmol) of phenylboronic acid, and after purification by chromatography on a column of silica eluted with a heptane/ethyl acetate mixture(8/2), 2.1 g (50%) of the expected product are obtained in the form of a white solid with a melting point of 132° C.

reactant | 3-bromo-5-iodo-N-methyl-benzamide | 14 mmol, 4.9 g | BrC=1C=C(C(=O)NC)C=C(C1)I | C8H7BrINO
reactant | phenylboronic acid | 15.8 mmol, 1.93 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 5-Bromo-N-methyl-3-biphenylcarboxamide | BrC=1C=C(C=C(C1)C1=CC=CC=C1)C(=O)NC | C14H12BrNO
